US07691869B2
2,4-Difluorobromobenzene (2 mmol), t-butyl 1,4-diazepane-1-carboxylate (3 mmol), Pd2(dba)3 (0.04 mmol, 4 mol % Pd, 36 mg), BINAP (0.08 mmol, 50 mg), potassium t-butoxide (KO-t-Bu, 2.8 mmol, 314 mg), and toluene (10 mL) are added to an oven-dried Schlenk flask that is purged with argon for approximately 15 min. The reaction mixture is then heated to 90° C. under argon until all of 2,4-difluorobromobenzene is consumed as determined by GC analysis. The reaction mixture is then allowed to cool to RT, diluted with EtOAc (20 mL) and filtered through a Celite pad. The filtrate is evaporated, and purified by silica gel column chromatography to afford t-butyl 4-(2,4-difluorophenyl)-1,4-diazepane-1-carboxylate which is deprotected by TFA in DCM. The reaction mixture is concentrated and the residue is extracted twice with DCM to afford 1-(2,4-difluorophenyl)-1,4-diazepane as a yellow oil: LC/MS (M+1=213.31). 1H NMR (CDCl3, 400 MHz) δ 1.82 (br s, 1H, NH), 1.91 (quintuplet, 2H, J=6.0 Hz), 2.97 (t, 2H, J=5.6 Hz), 3.05 (t, 2H, J=5.2 Hz), 3.33 (m, 4H), 6.70-6.87 (m, 3H).

reactant | 2,4-Difluorobromobenzene | 2 mmol | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | t-butyl 1,4-diazepane-1-carboxylate | 3 mmol | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | BINAP | 0.08 mmol, 50 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | potassium t-butoxide | 2.8 mmol, 314 mg | CC(C)([O-])C.[K+]
catalyst | Pd2(dba)3 | 0.04 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl 4-(2,4-difluorophenyl)-1,4-diazepane-1-carboxylate | FC1=C(C=CC(=C1)F)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H22F2N2O2
